US05302720
Potassium carbonate (9.6 g) was added to a solution of 4-benzyloxyphenylcyanamide (6.3 g) in acetone (450 ml) with stirring. A solution of methyl-4-toluene sulphonate (9 g) in acetone (50 ml) was added and the mixture stirred for 7 hours. The solvent was removed by evaporation and the residue suspended in water and extracted into dichloromethane. The extract was dried (Na2SO4) and the solvent removed by evaporation to give a residue which was triturated with a 1:1 mixture of ethylacetate and hexane to give N-methyl-4-benzyloxyphenylcyanamide (m.p. 116° C.).

reactant | Potassium carbonate | 9.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-benzyloxyphenylcyanamide | 6.3 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC#N | C14H12N2O
reactant | methyl-4-toluene sulphonate | 9 g | COS(=O)(=O)C1=CC=C(C=C1)C | C8H10O3S
solvent | acetone | 450 ml | CC(=O)C | C3H6O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | N-methyl-4-benzyloxyphenylcyanamide | CN(C#N)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C15H14N2O
